US06455528B1
(2) Synthesis of Methyl 4-(1-Acetamido-1-methylethyl)benzoate
A suspension of 4-(1-acetamido-1-methylethyl)benzoic acid (73.4 g) and sulfuric acid (0.7 ml) in methanol (370 ml) was refluxed for 16 hr. The solvent was evaporated and 10% aqueous sodium hydrogencarbonate (500 ml) was added and the mixture was extracted with ethyl acetate (500 ml). The extract was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated and the obtained residue was recrystallized from ethyl acetate-isopropyl ether to give the title compound (39.0 g) as pale-yellow crystals, m.p.=165-167° C.

reactant | 4-(1-acetamido-1-methylethyl)benzoic acid | 73.4 g | C(C)(=O)NC(C)(C)C1=CC=C(C(=O)O)C=C1 | C12H15NO3
reactant | sulfuric acid | 0.7 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 370 ml | CO | CH4O
product | Methyl 4-(1-Acetamido-1-methylethyl)benzoate | 39.0 g | C(C)(=O)NC(C)(C)C1=CC=C(C(=O)OC)C=C1 | C13H17NO3
